US08383654B2
Step 9: 2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzoic acid ethyl ester
4-Amino-2-tert-butylsulfanylmethyl-benzoic acid methyl ester (5.1 g, 19.1 mmol) and triethylamine (6.6 mL, 47.8 moml) were combined in CH2Cl2 (200 mL) and cooled to 0° C. Pivaloyl chloride (2.8 mL, 22.9 mmol) was added dropwise by syringe, and the reaction was stirred at room temperature for 1 hour. The mixture was worked up with EtOAc and H2O to give the title compound.

reactant | 4-Amino-2-tert-butylsulfanylmethyl-benzoic acid methyl ester | 19.1 mmol, 5.1 g | COC(C1=C(C=C(C=C1)N)CSC(C)(C)C)=O | C13H19NO2S
reactant | triethylamine | 6.6 mL | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 22.9 mmol, 2.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)(C)C)=O | C19H29NO3S
